US07786108B2
Step 4. Preparation of 8,9-dimethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester
Add cesium carbonate (456 mg, 3.0 mmol), methyl boronic acid (90 mg, 1.5 mmol) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (82 mg, 0.1 mmol) to a solution of 8-bromo-9-methyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (341 mg, 1.0 mmol) in dioxane (8 mL). Stir the mixture under nitrogen at 110° C. for 1 h and 30 min. Cool down the mixture to room temperature and filter over Celite® washing with ethyl acetate. Evaporate the solvent and purify the crude by chromatography, eluting with hexane/ethyl acetate to afford the title compound (239 mg, 87%). MS (ES+): 276 (M+H).

reactant | cesium carbonate | 3.0 mmol, 456 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl boronic acid | 1.5 mmol, 90 mg | CB(O)O | CH5BO2
reactant | dichloromethane | 0.1 mmol, 82 mg | ClCCl | CH2Cl2
reactant | 8-bromo-9-methyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 1.0 mmol, 341 mg | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC(=C2C)Br | C15H18BrNO3
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 8,9-dimethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 239 mg, 87% | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC(=C2C)C | C16H21NO3
